US06413992B1
A. Preparation of 3,5-dichloro-4-pyridinethioamide
Into a 3000-mL three-necked round bottom flask equipped with a condenser, mechanical stirrer under an atmosphere of nitrogen was added pyridine (1500 mL), then 3,5-dichloro-4-pyridine-carboxamide (92.9 g., 0.486 mole) (which dissolved), and tetraphosphorus decasulfide (237 g., 0.535 moles)(which had almost dissolved then a bright yellow precipitate formed and an exotherm heated the mixture to 60° C.). The slurry was allowed to stir for 1 hr (temperature had dropped to 45° C.) and then the temperature was then raised and when it reached 100° C. all of the solids had dissolved and continued heating to 118° C. and was maintained at 115° C. for 4 hr. The mixture was poured into water (3750 mL) carefully as gas began to evolve and the temperature of the aqueous solution rose to approximately 45° C. and was allowed to sit at room temperature over two nights. To the resulting mixture was added water (6000 mL) and was extracted with methylene chloride (3×2000 mL), washed with water (3×1000 mL) and the solvent removed in vacuo to give a brownish yellow liquid, with much pyridine present. The vacuum pump was connected to the rotary evaporator to remove the residual pyridine. The residue (brown solid) was triturated with diethyl ether (3×1500 mL), treated with decolorizing carbon and the solvent removed in vacuo to give a solid which contained pyridine. The yellow solid was slurried in water (2×200 mL) and dried in vacuo at 60° C. to give 63.2 g of a light yellow solid (62.8% yield): mp 186-187° C.; TLC[50/50 ethyl acetate/hexanes] showed amide at Rf=0.31 and thioamide Rf=0.53; 1H NMR (DMSO-d6) d 10.6 (s, b, 1H), 10.0 (s, b, 1H), 8.6 (s, 2H).

reactant | pyridine | 1500 mL | N1=CC=CC=C1 | C5H5N
reactant | 3,5-dichloro-4-pyridine-carboxamide | 0.486 mole, 92.9 g | ClC=1C=NC=C(C1C(=O)N)Cl | C6H4Cl2N2O
reactant | tetraphosphorus decasulfide | 0.535 moles, 237 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | water | 200 mL | O | H2O
solvent | water | 6000 mL | O | H2O
solvent | water | 3750 mL | O | H2O
product | 3,5-dichloro-4-pyridinethioamide | 63.2 g, 62.8% yield | ClC=1C=NC=C(C1C(N)=S)Cl | C6H4Cl2N2S
